US08754094B2
Synthesis of methyl 6-ureidohexanoate (Class 2)
A solution of 6-ureidohexanoic acid (0.996 g, 5.72 mmol, 1.0 equiv) in methanol/benzene (2:7, 60 mL) was cooled to 0 degrees C., and a solution of trimethylsilyldiazomethane in hexanes (2.0 M, 3.43 mL, 6.86 mmol, 1.2 equiv) was added. The reaction mixture was warmed to room temperature and stirred for 1 h prior to removing all volatile components in vacuo. The crude methyl ester (1.06 g, 5.61 mmol, 98%) was used without further purification in the Biginelli reaction.

reactant | 6-ureidohexanoic acid | 5.72 mmol, 0.996 g, 1.0 equiv | N(C(=O)N)CCCCCC(=O)O | C7H14N2O3
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol benzene | 60 mL | CO.C1=CC=CC=C1
product | methyl 6-ureidohexanoate | N(C(=O)N)CCCCCC(=O)OC | C8H16N2O3
